US08445510B2
trans-4-(1-Methyl-1H-imidazol-2-yl)cyclohexanol
A mixture of trans-N-(2,2-Dimethoxyethyl)-4-hydroxy-N-methylcyclohexanecarboxamide (265 mg, 1.08 mmol) and Ammonium acetate (2.2 g, 29 mmol) in AcOH (3.0 mL, 53 mmol) was heated to reflux (oil bath temperature 125° C.) for 16.5 h. To the cooled solution were added 10 N NaOH (≈10 mL) and water (≈10 mL), and the mixture was extracted with DCM (3×20 mL). The combined DCM extracts were washed with brine, dried over MgSO4, filtered, and concentrated to give the title compound as light orange solid. Additional material was obtained by saturating the aqueous layer from the previous extractions with NaCl and extracting with more DCM (4×25 mL). The light orange solid was chromatographed on silica gel [Isco Combiflash, 2.5 g loading column/4 g Gold column, eluting with DCM→10% 7N NH3 in MeOH] to give the title compound as yellow solid. 1H NMR (400 MHz, CDCl3): δ=6.92 (d, J=1.4 Hz, 1H), 6.77 (d, J=1.4 Hz, 1H), 3.73 (tt, J=10.8, 4.2 Hz, 1H), 3.60 (s, 3H), 2.60 (tt, J=12.0, 3.6 Hz, 1H), 2.18-2.08 (m, 2H), 1.99-1.91 (m, 2H), 1.88 (brs, 1H), 1.83-1.71 (m, 2H), 1.46-1.35 (m, 2H). MS (ES+): m/z=181.13 (100) [MH+]. HPLC: tR=0.69 min (very polar—5 min, ZQ3). UV: λmax=216 nm.

reactant | trans-N-(2,2-Dimethoxyethyl)-4-hydroxy-N-methylcyclohexanecarboxamide | 1.08 mmol, 265 mg | COC(CN(C(=O)[C@@H]1CC[C@H](CC1)O)C)OC | C12H23NO4
reactant | Ammonium acetate | 29 mmol, 2.2 g | C(C)(=O)[O-].[NH4+]
reactant | AcOH | 53 mmol, 3.0 mL | CC(=O)O | C2H4O2
reactant | NaOH | 10 N, ≈10 mL | [OH-].[Na+]
solvent | water | ≈10 mL | O | H2O
product | trans-4-(1-Methyl-1H-imidazol-2-yl)cyclohexanol | CN1C(=NC=C1)[C@@H]1CC[C@H](CC1)O | C10H16N2O
